US04822729
2-(m-nitrophenoxy)-myristic acid ethyl ester
A mixture of 250 g (1.79 mol) of m-nitrophenol, 602 g (1.79 mol) of Alphabromo-myristic acid ethyl ester, 248 g (1.79 mol) of potassium carbonate, and 1350 ml of dimethylformamide is heated to 80° C. for 3 h with stirring. The mixture is then poured out slowly into a mixture of 2300 ml of water and 250 ml of acetic acid. The product is extracted with dichloromethane. The solvent is removed by evaporation.

reactant | m-nitrophenol | 1.79 mol, 250 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | Alphabromo-myristic acid ethyl ester | 1.79 mol, 602 g | C(C)OC(C(CCCCCCCCCCCC)Br)=O | C16H31BrO2
reactant | potassium carbonate | 1.79 mol, 248 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1350 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | water | 2300 ml | O | H2O
product | 2-(m-nitrophenoxy)-myristic acid ethyl ester | C(C)OC(C(CCCCCCCCCCCC)OC1=CC(=CC=C1)[N+](=O)[O-])=O | C22H35NO5
